US08207167B2
4-Bromo-N-(3-sulfamoylphenyl)benzenesulfonamide (ABD751a)
A solution of 4-bromobenzenesulfonyl chloride (1.34 g, 5.25 mmol), 3-aminobenzenesulfonamide (860 mg, 5.0 mmol) and DIPEA (1.29 g, 10 mmol) in THF (10 mL) was stirred overnight at room temperature. The solvent was then evaporated and the residue purified by chromatography on the SP4 (70 g Silica Isolute II, 0-100% EtOAc/hexane) to and the title compound obtained as a white solid (395 mg).

reactant | 4-bromobenzenesulfonyl chloride | 5.25 mmol, 1.34 g | BrC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4BrClO2S
reactant | 3-aminobenzenesulfonamide | 5.0 mmol, 860 mg | NC=1C=C(C=CC1)S(=O)(=O)N | C6H8N2O2S
reactant | DIPEA | 10 mmol, 1.29 g | CCN(C(C)C)C(C)C | C8H19N
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 4-Bromo-N-(3-sulfamoylphenyl)benzenesulfonamide | 395 mg | BrC1=CC=C(C=C1)S(=O)(=O)NC1=CC(=CC=C1)S(N)(=O)=O | C12H11BrN2O4S2
